US06225324B1
A solution of 1-(tert-butyloxycarbonyl)-4-{[(2,5-dichlorophenyl)methyl]piperid-1-yl}hexahydro4 H-azepine (700 mg, 1.58 mmol) in trifluoroacetic acid (2 ml) and methylene chloride (0.5 ml) was stirred at room temperature for 15 min. The solution was concentrated in vacuo and the residue was dissolved in chloroform and extracted with saturated aqueous sodium carbonate. The chloroform extract was dried over sodium sulfate and concentrated in vacuo to give 4-{[(2,5-dichlorophenyl)methyl]piperid-1-yl}hexahydro-4 H-azepine (489 mg, 90%).

reactant | 1-(tert-butyloxycarbonyl)-4-{[(2,5-dichlorophenyl)methyl]piperid-1-yl}hexahydro4 H-azepine | 1.58 mmol, 700 mg | C(C)(C)(C)OC(=O)N1CCC(CCC1)N1C(CCCC1)CC1=C(C=CC(=C1)Cl)Cl | C23H34Cl2N2O2
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 4-{[(2,5-dichlorophenyl)methyl]piperid-1-yl}hexahydro-4 H-azepine | 489 mg, 90% | ClC1=C(C=C(C=C1)Cl)CC1N(CCCC1)C1CCNCCC1 | C18H26Cl2N2
